data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21](C(C)(C)CC)P(=O)(Cl)Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CCC(C)(C)[O:21]P(=O)(Cl)Cl 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C.CC12CCC(CC1CCC3C2CCC4(C3CCC4([OH:10])OCCO)C)O>>[H:20][OH+:10]C1(CCC2C1(CCC3C2CCC4C3(CCC(C4)O)C)C)OCCO.CS(=O)(=O)[O-:21] 10=20;20,21=21
CC[NH2+:21][C:20](CC#N)(NC)[OH:10]>>CC[NH2:21].CN[C:20](=[OH+:10])CC#N 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC[CH:10]=[CH:11][NH:12]C>>[H:20][CH:10](CNCC)[CH:11]=[NH+:12]C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH+:21][Na].CCCC1CC2=C(C(=C(C=C2)OC)O)[C:11](=[C:10]1CCC(=O)C)[O-:12].C(=O)O[Na].O>>[H:20][C:10]1(C(CC2=C([C:11]1=[O:12])C(=C(C=C2)OC)O)CCC)CCC(=O)C.[OH:21][Na].C(=O)O[Na].O 10,11=10,20;20,21=21;12=11
CC1C(=C(C2C#CC=CC#CC3C14C2(O4)C5=C(N3C(=O)[O-])C=CC(=C5)[O-:10])OC)C(=O)OCOC.CC(=O)O[I:20](C1=CC=CC=C1)OC(=O)C.CCCC[N+](CCCC)(CCCC)CCCC>>CC1C(=C(C2C#CC=CC#CC3C14C2(O4)C5=C(N3C(=O)[O-])C=CC(=C5)[O:10][I-:20](C6=CC=CC=C6)(OC(=O)C)OC(=O)C)OC)C(=O)OCOC.CCCC[N+](CCCC)(CCCC)CCCC 10=20,
C[NH2:10].F[Cu:20]F>>C[NH2+:10][Cu-:20](F)F 10=20,
[H:10][BH3-:11].CC1CCC2(CCC3(C(=CC(=O)C4C3(CCC5C4(CC([C:20](=[O:21])C5(C)C(=O)OC(C)(C)C)C#N)C)C)C2C1C)C)C.CO>>[H:10][C:20]1(C(CC2(C(C1(C)C(=O)OC(C)(C)C)CCC3(C2C(=O)C=C4C3(CCC5(C4C(C(CC5)C)C)C)C)C)C)C#N)[O-:21].[BH3:11].CO 10,11=10,20;20,21=21
[H:20][NH2+:21]C.CCOC(=O)C(CC(C)([NH2+]C)[O-:10])C(=O)C.O>>[H:20][O:10]C(C)(CC(C(=O)C)C(=O)OCC)[NH2+]C.C[NH2:21].O 10=20;20,21=21
[H:20][NH+:21](C(C)C1=CC=CC=C1)C(CC2=CC(=C(C(=C2)OC)OC)OCC3=CC=CC=C3)([O-])Cl.[OH:10][Na].O>>[H:20][OH+:10][Na].CC(C1=CC=CC=C1)[NH:21]C(CC2=CC(=C(C(=C2)OC)OC)OCC3=CC=CC=C3)([O-])Cl.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C(C=O)OC(CO)[OH:10]>>[H:20][OH+:10]C(CO)OCC=O.OS(=O)(=O)[O-:21] 10=20;20,21=21
CN[C:20](=[O:21])OCC[O-:10]>>CN[C:20]1(OCC[O:10]1)[O-:21] 10=20;20,21=21
C[S:20][I:21].C(=O)[O-:10]>>C[S:20][O:10]C=O.[I-:21] 10=20;20,21=21
CC1=CC(=C(C=C1)CC2CC[C:20](O2)([OH:10])[OH+:21]C)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1=CC(=C(C=C1)CC2CC[C:20](=[OH+:10])O2)OC.C[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C.CC1CCC2(C1(CC(C(=O)C2)[Si](C)(C)C)CCC#C)[O-:10].O[K]>>[H:20][O:10]C12CCC(C1(CC(C(=O)C2)[Si](C)(C)C)CCC#C)C.C[O-:21].O[K] 10=20;20,21=21
CC1(C2CC1C3=C(C2)[NH:10][C:20](C(C3)[N+]4=CC=CC=C4)(C5=C(C=CC=C5)F)[OH2+:21])C.CC(=O)[O-].O.[I-]>>CC1(C2CC1C3=C(C2)[NH+:10]=[C:20](C(C3)[N+]4=CC=CC=C4)C5=C(C=CC=C5)F)C.[OH2:21].CC(=O)[O-].O.[I-] 10=20;20,21=21
[H:20][O+:21]=C(CCOCC)N.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCOCCC(=[O:21])N 10=20;20,21=21
[H:20][Br:21].CC(C)(CCC[OH:10])Br>>[H:20][OH+:10]CCCC(C)(C)Br.[Br-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C=C(CC1=CC=CC=C1)O.[NH2-:10]>>[H:20][NH2:10].C1=CC=C(C=C1)CC(=CC(=O)[O-:21])O 10=20;20,21=21
[B:20](F)(F)F.COC(C=[O:10])C1CCCCC1>>[B-:20]([O+:10]=CC(C1CCCCC1)OC)(F)(F)F 10=20,
[H:20][O:21]C1N=C2C(=C(N1CC3=CC(=C(C(=C3)Br)O)Br)N)NC(=O)N2C4C(C(C(O4)CO)O)O.[OH-:10].[Br-]>>[H:20][OH:10].C1=C(C=C(C(=C1Br)O)Br)CN2C(N=C3C(=C2N)NC(=O)N3C4C(C(C(O4)CO)O)O)[O-:21].[Br-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C.COC1=C2C3=C(CC4C5C3(CCN4CC=C)C(O2)[C:11](=[CH:10]C5)[OH:12])C=C1.CO>>[H:20][CH:10]1CC2C3CC4=C5C2(CCN3CC=C)C([C:11]1=[OH+:12])OC5=C(C=C4)OC.CS(=O)(=O)[O-:21].CO 10,11=10,20;20,21=21;12=11
COC1=CC2=C(C=C1)C(C3C2([N+:21]#[C:20]CC3)C4=CC=CC=C4)C(=O)OC.[OH2:10].CS(=O)(=O)[O-]>>COC1=CC2=C(C=C1)C(C3C2([N:21]=[C:20](CC3)[OH2+:10])C4=CC=CC=C4)C(=O)OC.CS(=O)(=O)[O-] 10=20;20,21=21
CC[O-:10].CCO[C:20](=[O:21])C>>CCO[C:20](C)([O-:21])[O:10]CC 10=20;20,21=21
[H:20][O:21]C1CC2(CCC1(CC2)C)OS(=O)(=O)C3=CC=C(C=C3)C.CC(C)(C)[O-:10].[K+]>>[H:20][O:10]C(C)(C)C.CC1=CC=C(C=C1)S(=O)(=O)OC23CCC(CC2)(C(C3)[O-:21])C.[K+] 10=20;20,21=21
C1CC[CH+:20]CC1.[Cl-:10]>>C1CC[CH:20](CC1)[Cl:10] 10=20
[H:20][OH2+:21].CCOC(=O)C(C)C1CC2C(CCCC2=C)CC1([N:10]3CCCC3)O.[Br-]>>[H:20][N+:10]1(CCCC1)C2(CC3CCCC(=C)C3CC2C(C)C(=O)OCC)O.[OH2:21].[Br-] 10=20;20,21=21
[H:20][CH:21](C(=O)N(C)C(=O)C1CN(C2=CC=CC(=C12)C=C)C(=O)C3=CC=CC=C3)[C:22](=[O:23])OC.CC[N:10](CC)CC.CS(=O)(=O)[N-][N+]#N>>[H:20][N+:10](CC)(CC)CC.CN(C(=O)[CH:21]=[C:22]([O-:23])OC)C(=O)C1CN(C2=CC=CC(=C12)C=C)C(=O)C3=CC=CC=C3.CS(=O)(=O)[N-][N+]#N 10=20;22,23=23;20,21=21,22
[H:20][NH+:21](C(CO)C(C=CC1=CC=CS1)O)C(CCCCC)([O-])Cl.CC(=O)[O-:10].[Na+]>>[H:20][O:10]C(=O)C.CCCCCC([NH:21]C(CO)C(C=CC1=CC=CS1)O)([O-])Cl.[Na+] 10=20;20,21=21
C(CC=CCC1C([O:10]1)CO)CC(=O)O.Cl[Sn:20](Cl)(Cl)Cl>>C(CC=CCC1C([O+:10]1[Sn-:20](Cl)(Cl)(Cl)Cl)CO)CC(=O)O 10=20,
C[C:11](=[CH2:10])[N:12]1CCCC1.[CH2:20]=[CH:21][C:22]#[N:23]>>C[C:11](=[N+:12]1CCCC1)[CH2:10][CH2:20][CH:21]=[C:22]=[N-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
CCCCCC1CC(C([CH:20](C1)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)OC(=[O:10])C)C3CCCCC3>>CCCCCC1CC(C2[CH:20](C1)[O+:10]=C(O2)C)C3CCCCC3.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C[S:10]C.[CH3:20][I:21]>>C[S+:10](C)[CH3:20].[I-:21] 10=20;20,21=21
CC[O:21][C:20](C)(CC1=CC=NC=C1)[O-:10]>>CC[O-:21].C[C:20](=[O:10])CC1=CC=NC=C1 10=20;20,21=21
